US07776856B2
117: 2-(1H-Indol-4-yl)-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[3.2-d]pyrimidine
Via ethereal HCl-mediated BOC-group cleavage of 4-[2-(1H-Indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester.

reactant | HCl | Cl | ClH
reactant | 4-[2-(1H-Indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C1=C2C=CNC2=CC=C1 | C28H34N6O3S
product | 2-(1H-Indol-4-yl)-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[3.2-d]pyrimidine | N1C=CC2=C(C=CC=C12)C=1N=C(C2=C(N1)C=C(S2)CN2CCNCC2)N2CCOCC2 | C23H26N6OS
